US04087533
N-(1-hydroxy-2,2,3-trichloro-n-propyl)-formamide
A mixture consisting of 16.2 gm of 2,2,3-trichloropropionaldehyde and 4.5 gm of formamide was stirred on a boiling water bath for 30 minutes. Recrystallization of the reaction product from benzene yielded 17 gm of the desired compound, m.p. 105°-109° C.

reactant | 2,2,3-trichloropropionaldehyde | 16.2 gm | ClC(C=O)(CCl)Cl | C3H3Cl3O
reactant | formamide | 4.5 gm | C(=O)N | CH3NO
product | N-(1-hydroxy-2,2,3-trichloro-n-propyl)-formamide | 17 gm | OC(C(CCl)(Cl)Cl)NC=O | C4H6Cl3NO2
